US05077407
5,6,7,8-Tetrahydro-1-methylisoquinoline (methylation of C-2 product)
2.155 g (16.20 mmol) of 5,6,7,8-tetrahydroisoquinoline, 20 ml of diethylether, and 13 ml (19.50 mmol) of a 1.5 molar solution of methyllithium-lithium bromide complex in diethylether are reacted for approximately 16 hours at 45° C. The excess methyllithium is destroyed by cautious addition of water, and the crude product is obtained by chloroform extraction. Removal of the chloroform in vacuo gives the crude product which is purified by LPLC (methylene chloride-acetone, 4:1) to give 1.00 g of product. The product exhibits NMR peaks (CDCl3, δ) at 8.25, 6.85, 2.65, 2.5, and 1.80.

reactant | 5,6,7,8-tetrahydroisoquinoline | 16.20 mmol, 2.155 g | C1=NC=CC=2CCCCC12 | C9H11N
reactant | diethylether | C(C)OCC | C4H10O
reactant | diethylether | 20 ml | C(C)OCC | C4H10O
product | 5,6,7,8-Tetrahydro-1-methylisoquinoline | 1.00 g | CC1=NC=CC=2CCCCC12 | C10H13N
